US09422244B2
3.41 g (1 mol equiv.) N-Ethyl-4,4-dimethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester and 6.24 g (1.05 mol equiv.) N-(2-Bromo-4-sulfamoyl-phenyl)-2,2,2-trifluoro-acetamide were added to 100 mL acetonitrile. The reaction mixture was refluxed overnight, and subsequently volatiles were removed under reduced pressure. The residue was taken up in ethyl acetate and extracted with 2N NaOH, and the organic layer was dried over Na2SO4, filtered and evaporated to dryness. Purification by flash chromatography on silica gel (Et2O) afforded 7.1 g (83%) N-(2-bromo-4-{[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-2,2,2-trifluoro-acetamide. 1H NMR (400 MHz, CDCl3) δ 1.18 (t, J=7.3 Hz, 3H), 1.24 (s, 6H), 3.43-3.51 (m, 2H), 3.79 (br.s., 2H), 6.78 (s, 1H), 7.93 (dd, J=8.6, 2.0 Hz, 1H), 8.19 (d, J=2.0 Hz, 1H), 8.39 (d, J=8.6 Hz, 1H), 8.61 (br.s., 1H).

reactant | N-Ethyl-4,4-dimethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester | 1 mol, 3.41 g | CSC(=NCC)N1N=CC(C1)(C)C | C9H17N3S
reactant | N-(2-Bromo-4-sulfamoyl-phenyl)-2,2,2-trifluoro-acetamide | 1.05 mol, 6.24 g | BrC1=C(C=CC(=C1)S(N)(=O)=O)NC(C(F)(F)F)=O | C8H6BrF3N2O3S
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-(2-bromo-4-{[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-2,2,2-trifluoro-acetamide | 7.1 g, 83% | BrC1=C(C=CC(=C1)S(N=C(NCC)N1N=CC(C1)(C)C)(=O)=O)NC(C(F)(F)F)=O | C16H19BrF3N5O3S
